US08629147B2
A mixture of 4-dimethylaminophenyl boronic acid (10 g, 60.6 mM), 2,4-dichloropyrimidine (9 g, 60.4 mM), Na2CO3 (12 g, 114.2 mM), tetrakistriphenylphosphine palladium (2.5 g, 2.1 mM), dimethoxyethane (120 ml) and water (35 ml) was heated at 80° C. under a nitrogen atmosphere for 16 hr. The reaction was cooled in an ice bath and the resulting yellow suspension was filtered and the solid washed with water (3×50 ml) then ethyl acetate (2×50 ml). The solid was dried in vaccuo to afford [4-(2-Chloro-pyrimidin-4-yl)-phenyl]-dimethyl-amine (11.1 g, 78% yield) as an orange solid. ES-MS MH+234, 236, 1H NMR (300 MHz, ppm, DMSO-d6): 8.57 (d, 1H), 8.05 (d, 2H), 7.92 (d, 1H), 6.80 (d, 1H), 3.03 (s, 6H)

reactant | 4-dimethylaminophenyl boronic acid | 60.6 mM, 10 g | CN(C1=CC=C(C=C1)B(O)O)C | C8H12BNO2
reactant | 2,4-dichloropyrimidine | 60.4 mM, 9 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | Na2CO3 | 114.2 mM, 12 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | dimethoxyethane | 120 ml | C(OC)COC | C4H10O2
solvent | water | 35 ml | O | H2O
product | [4-(2-Chloro-pyrimidin-4-yl)-phenyl]-dimethyl-amine | 11.1 g, 78% yield | ClC1=NC=CC(=N1)C1=CC=C(C=C1)N(C)C | C12H12ClN3
